US05219847
I-8-2: Synthesis of 6-hexyloxy-α-picoline N-oxide
To a solution of 8.60 g (44 mmol) of 6-hexyloxy-α-picoline dissolved in 43 ml of acetic acid was added 6.4 ml of hydrogen peroxide, the mixture was stirred at 70° to 80° C. for 3 hours, further 4 ml of hydrogen peroxide was added, and the mixture was stirred at the same temperature for 3 hours. After concentration under a reduced pressure to a half amount, water was added and the mixture concentrated under a reduced pressure (repeated for three times). A crude in an amount of 5.50 g was obtained.

reactant | 6-hexyloxy-α-picoline | 44 mmol, 8.60 g | C(CCCCC)OC1=CC=CC(=N1)C | C12H19NO
reactant | hydrogen peroxide | 6.4 ml | OO | H2O2
reactant | hydrogen peroxide | 4 ml | OO | H2O2
solvent | acetic acid | 43 ml | C(C)(=O)O | C2H4O2
product | 6-hexyloxy-α-picoline N-oxide | C(CCCCC)OC=1C=CC=C([N+]1[O-])C | C12H19NO2
